US05624951
4-Hydroxy-3-(2'-trifluoromethylphenylcarbamoyl)coumarin
According to the procedure of example 17, 4-hydroxycoumarin (2.00 g. 12.8 mmol) and 2-trifluoromethylphenylisocyanate(1.93 ml, 12.8 mmol) were reacted in the presence of triethylamine (0.05 ml) to generate the title compound as an off-white solid, mp 157°-159°]C., (2.2 g, 6.30 mmol, 49.3%). Analysis: Calculated for C17H10NO4F3 : C, 58.45; H, 2.86; N, 4.01. Found: C, 58.47; H, 3.04; N, 4.02. 1H NMR (CDCl3): 8.06 (d, J=7.8 Hz, 2H), 7.70 (d, J=8.8 Hz, 2H), 7.62 (t, J=7.8 Hz, 1H), 7.38 (m, 3H).

reactant | 4-hydroxycoumarin | 12.8 mmol, 2.00 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 2-trifluoromethylphenylisocyanate | 12.8 mmol, 1.93 ml | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
product | 4-Hydroxy-3-(2'-trifluoromethylphenylcarbamoyl)coumarin | OC1=C(C(OC2=CC=CC=C12)=O)C(NC1=C(C=CC=C1)C(F)(F)F)=O | C17H10F3NO4
